US04191554
A mixture of 4 parts of 2-methylresorcinol, 7 parts of potassium tert-butoxide, 11 parts of bromobenzene, 1 part cuprous chloride and 70 parts of pyridine is distilled until the temperature reaches 115°, and then is heated under reflux for 15 hours. The mixture is then added to 100 parts of ice water, made acidic with concentrated hydrochloric acid and extracted several times with toluene. The toluene extracts are dried over anhydrous potassium carbonate, concentrated and distilled to give 2,6-diphenoxytoluene, B.P. 146°-156° (0.2 torr), M.P. 39°-41°.

reactant | 2-methylresorcinol | CC1=C(O)C=CC=C1O | C7H8O2
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,6-diphenoxytoluene | O(C1=CC=CC=C1)C1=C(C(=CC=C1)OC1=CC=CC=C1)C | C19H16O2
